US04581168
3. Boc-Gln-Gln-Gly-OMe
A solution of the residue obtained in the preceding step (theoretically 175.9 mM) in 500 ml of DMF, cooled on an ice bath, has 77.6 g of Boc-Gln-ONp (211.1 mM), 26.4 g of hydroxy benzotriazole (211.1 mM) and N-ethylmorpholine added thereto until a pH of 7 is obtained. After 20 hrs. of reaction at ambient temperature, the solution sets en masse. By addition of ethyl acetate, a precipitate is obtained which is drained, washed with AcOEt and dried in vacuo. 64.27 g of product are obtained, viz. a yield of 82%.

reactant | Boc-Gln-ONp | 211.1 mM, 77.6 g | N([C@@H](CCC(N)=O)C(=O)OC1=CC=C([N+](=O)[O-])C=C1)C(=O)OC(C)(C)C | C16H21N3O7
reactant | hydroxy benzotriazole | 211.1 mM, 26.4 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | N-ethylmorpholine | C(C)N1CCOCC1 | C6H13NO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | DMF | 500 ml | CN(C)C=O | C3H7NO
product | Boc-Gln-Gln-Gly-OMe | 64.27 g, yield of 82% | N([C@@H](CCC(N)=O)C(=O)N[C@@H](CCC(N)=O)C(=O)NCC(=O)OC)C(=O)OC(C)(C)C | C18H31N5O8
